US09260413B2
To a solution of 750 mg (4.30 mmol) 2-chloro-5-methoxy-3-methylpyrimidin-4(3H)-one in 20 ml THF was added 314 mg (0.430 mmol) 1,1′-bis(diphenylphosphino)ferrocene-palladium(H)dichloride dichloromethane adduct, 1.83 g (8.59 mmol) 4-phenoxyphenylboronic acid, and 4.30 ml (4.30 mmol) 1 M aq Cs2CO3. The reaction mixture was heated to 120° C. for 15 min in the microwave, then diluted with 10 ml water, extracted with 50 ml EtOAc, dried over Na2SO4, filtered, and concentrated in vacuo to give 1.33 g (100% yield) of crude 5-methoxy-3-methyl-2-(4-phenoxyphenyl)pyrimidin-4(3H)-one.

reactant | 2-chloro-5-methoxy-3-methylpyrimidin-4(3H)-one | 4.30 mmol, 750 mg | ClC1=NC=C(C(N1C)=O)OC | C6H7ClN2O2
reactant | 4-phenoxyphenylboronic acid | 8.59 mmol, 1.83 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | Cs2CO3 | 4.30 mmol, 1 M, 4.30 ml | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 5-methoxy-3-methyl-2-(4-phenoxyphenyl)pyrimidin-4(3H)-one | 1.33 g, 100% yield | COC=1C(N(C(=NC1)C1=CC=C(C=C1)OC1=CC=CC=C1)C)=O | C18H16N2O3
